US09370522B2
The diaryl product was obtained using the same synthetic methods as shown in Example 25, step 7, using 4,5-diamino-2-hydroxybenzoic acid (168 mg, 1.00 mmol, 1.00 equiv) and 1,2-bis(4-methoxyphenyl)ethane-1,2-dione (270 mg, 1.00 mmol, 1.00 equiv) as reactants, yielding 50 mg (12%) of 7-hydroxy-2,3-bis(4-methoxyphenyl)quinoxaline-6-carboxylic acid as a red solid.

reactant | 4,5-diamino-2-hydroxybenzoic acid | 1.00 mmol, 168 mg, 1.00 equiv | NC1=CC(=C(C(=O)O)C=C1N)O | C7H8N2O3
reactant | 1,2-bis(4-methoxyphenyl)ethane-1,2-dione | 1.00 mmol, 270 mg, 1.00 equiv | COC1=CC=C(C=C1)C(C(=O)C1=CC=C(C=C1)OC)=O | C16H14O4
product | 7-hydroxy-2,3-bis(4-methoxyphenyl)quinoxaline-6-carboxylic acid | 50 mg, 12% | OC1=C(C=C2N=C(C(=NC2=C1)C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC)C(=O)O | C23H18N2O5
